US05607958
2-{[1-(5-Isoquinolyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]carbonylamino}-2-adamantanecarboxylic acid
0.75 g of 2-amino-2-adamantanecarboxylic acid is dissolved in 20 ml of pyridine. 1.4 g of 1-(5-isoquinolyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolecarbonyl chloride, dissolved in 20 ml of dichloromethane, are added and the reaction mixture is left overnight at room temperature. It is concentrated under vacuum, the residue is taken up with pH 2 buffer, the mixture is stirred and the precipitate is filtered off and rinsed with diisopropyl ether.

reactant | 2-amino-2-adamantanecarboxylic acid | 0.75 g | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
reactant | 1-(5-isoquinolyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolecarbonyl chloride | 1.4 g | C1=NC=CC2=C(C=CC=C12)N1N=C(C=C1C1=C(C=CC=C1OC)OC)C(=O)Cl | C21H16ClN3O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-{[1-(5-Isoquinolyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]carbonylamino}-2-adamantanecarboxylic acid | C1=NC=CC2=C(C=CC=C12)N1N=C(C=C1C1=C(C=CC=C1OC)OC)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O | C32H32N4O5
